2121-02-21 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 63 year old woman with recurrent hypotension,
   hypothermia, hypoglycemia, without obvious source of infection, in
   guarded condition.
   24 Hour Events:
 PRESEP CATHETER - START [**2121-2-20**] 11:15 PM
   ? seizure
   Allergies:
   Ranitidine
   Thrombocytopeni
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2121-2-21**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2121-2-21**] 06:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-21**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 72 (56 - 84) bpm
   BP: 100/48(62) {82/40(51) - 140/60(78)} mmHg
   RR: 14 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 2 (2 - 6)mmHg
   Total In:
                                                                  4,000 mL
                                                                  1,809 mL
   PO:
   TF:
   IVF:
                                                                  1,000 mL
                                                                  1,109 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                    270 mL
                                                                    210 mL
   Urine:
                                                                    270 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,730 mL
                                                                  1,599 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.27/29/51/14/-11
   Physical Examination
   General Appearance: Thin, Ill appearing
   Eyes / Conjunctiva: No(t) PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: 1+, Right BKA well healed. Left foot
   with well demarcated ulcer, no drainage or purulence
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Cool
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   GU: Stage II ulcer on left buttock. Foley catheter in place, dark milky
   urine in tube
   Labs / Radiology
   47 K/uL
   9.4 g/dL
   123 mg/dL
   1.9 mg/dL
   14 mEq/L
   4.5 mEq/L
   38 mg/dL
   116 mEq/L
   141 mEq/L
   28.7 %
   15.9 K/uL
        [image002.jpg]
                             [**2121-2-21**]  12:01 AM
                             [**2121-2-21**]  12:11 AM
                             [**2121-2-21**]  03:44 AM
   WBC
   15.9
   Hct
   19.2
   28.7
   Plt
   47
   Cr
   1.9
   TCO2
   14
   Glucose
   123
   Other labs: PT / PTT / INR:12.0/37.0/1.0, ALT / AST:50/40, Alk Phos / T
   Bili:267/0.3, Differential-Neuts:94.0 %, Band:4.0 %, Lymph:1.0 %,
   Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Albumin:2.7 g/dL,
   LDH:175 IU/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 HYPOTHERMIA
 SHOCK, SEPTIC
 THROMBOCYTOPENIA, ACUTE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ACIDOSIS, METABOLIC
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS
   63 year old woman with recurrent hypotension, hypothermia,
   hypoglycemia, without obvious source of infection, in guarded
   condition.
 SHOCK, SEPTIC: Although septic shock is most likely etiology, other
   considerations include myxedema coma, adrenal insufficiency, profound
   hypovolemia or hemodynamic process. In light of prior presentations
   with unexplained hypotension, will maintain broad differential.
   Initial Infectious workup remarkable for a positive UA and history of
   entero-uterine fistula. Chest x-ray unremarkable, no meningeal symptoms
   although mental status is altered. Other possible sources include
   surgical site at Right BKA and left foot ulcers. Would also consider
   expansin of fistula from uterus to
   -- Broad spectrum antibiotics; Vancomycin given multiple recent
   hospitalizations and Zosyn given concern for gram negatives, anaerobes
   and pseudomonas in this diabetic.
   -- Volume resusitate, CVP to 16 per early goal directed therapy
   -- No need for transusion at this time
   -- F/U Blood, urine cultures
   -- Consider dedicated fungal cultures
   -- Add baseline cortisol, would consider dexamethasone if refractory
   hypotension
 HYPOTHERMIA: Unclear etiology in this female with history of CVA, now
   with recurrent presentations of very low core temperature. Would favor
   a central process with temperature disregulation, however important
   etiologies to evaluate for include sepsis, adrenal insufficiency and
   myxedema coma. Patient however has been evaluated in prior admission
   and only has a low normal TSH and normal cortisol.
 THROMBOCYTOPENIA, ACUTE: Unclear etiology from prior admissions,
   suspect bone marrow supression vs consumptive process.
   -- Avoid H2 blockers, meds that could cause thrombocytopenia
   -- Recent HIT antibody negative, would not re check
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): : Baseline
   Creatinine 1.1 to 1.3, now 2.3. Given hypotension, suspect this most
   likely represents pre-renal azotemia, however differential diagnosis
   includes post renal and intrinsic process
   -- Urine culture
   -- Urine lytes
   -- Empiric fluids
   -- Renal ultrasound
 ALTERED MENTAL STATUS (NOT DELIRIUM): Although baseline is very
   limited, per daughter patient less interactive than at baseline.
   Suspect this is likely to systemic process
 ACIDOSIS, METABOLIC: Very low bicarbonate on admission, lactate
   however was normal. No anion gap. Most likely this represents GI losses
   vs decreased bicarbonate production from acute renal function.
   -- Fluid resusitation
   -- Would use LR / D5
 NS with Bicarb as IV fluid
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS: Continue Keppra 500mg daily
   ICU Care
   Nutrition:
   Presep Catheter - [**2121-2-20**] 11:15 PM
   20 Gauge - [**2121-2-20**] 11:17 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: Full code

2121-02-22 08:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 63 year old woman with recurrent hypotension,
   hypothermia, hypoglycemia, without obvious source of infection, in
   guarded condition.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2121-2-21**] 01:36 PM
 ULTRASOUND - At [**2121-2-21**] 02:36 PM
   Neuro - continue Keppra, check CT head (neg), check MRI head, MRA
   head/neck (pending), EEG
   Heme - lots of tests requested but hadn't been staffed yet so did not
   add these.
   Was hypoglycemic to 22, decreased sliding scale
   Had episode of presumed seizure activity, resolved spontaneously.
   TTE: ventricular hypertrophy, presented systolic function
   CXR: new LLL infiltrate
   Renal US: no hydronephrosis
   Allergies:
   Ranitidine
   Thrombocytopeni
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2121-2-21**] 10:00 PM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2121-2-21**] 06:45 PM
   Pantoprazole (Protonix) - [**2121-2-22**] 08:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-22**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.6
C (97.9
   HR: 79 (71 - 94) bpm
   BP: 136/62(81) {120/53(73) - 163/80(99)} mmHg
   RR: 16 (0 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 6 (4 - 8)mmHg
   CO/CI (Fick): (5 L/min) / (3.8 L/min/m2)
   Mixed Venous O2% Sat: 77 - 77
                                Total In:
                                                                  5,341 mL
                                                                    172 mL
   PO:
                                TF:
   IVF:
                                                                  4,541 mL
                                                                    172 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  1,745 mL
                                                                    600 mL
   Urine:
                                                                  1,745 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,596 mL
                                                                   -428 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   General Appearance: Thin, Ill appearing
   Eyes / Conjunctiva: No(t) PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: 1+, Right BKA well healed. Left foot
   with well demarcated ulcer, no drainage or purulence
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Cool
   Neurologic: Does not respond to stimuli, Movement: spontaneous movement
   in LE possibly clonus
   GU: Stage II ulcer on left buttock. Foley catheter in place, dark milky
   urine in tube
   Labs / Radiology
   55 K/uL
   12.2 g/dL
   99 mg/dL
   2.0 mg/dL
   18 mEq/L
   4.3 mEq/L
   30 mg/dL
   117 mEq/L
   144 mEq/L
   37.3 %
   13.6 K/uL
        [image002.jpg]
                             [**2121-2-21**]  12:01 AM
                             [**2121-2-21**]  12:11 AM
                             [**2121-2-21**]  03:44 AM
                             [**2121-2-21**]  07:20 AM
                             [**2121-2-21**]  09:37 AM
                             [**2121-2-21**]  01:51 PM
                             [**2121-2-21**]  03:28 PM
                             [**2121-2-21**]  05:21 PM
                             [**2121-2-22**]  01:22 AM
   WBC
   15.9
   17.5
   17.4
   13.6
   Hct
   19.2
   28.7
   34
   30.9
   31.7
   34
   37
   37.3
   Plt
   47
   44
   46
   55
   Cr
   1.9
   1.9
   1.9
   2.0
   TropT
   0.02
   TCO2
   14
   Glucose
   123
   79
   158
   99
   Other labs: PT / PTT / INR:12.3/37.0/1.0, CK / CKMB /
   Troponin-T:30/5/0.02, ALT / AST:50/40, Alk Phos / T Bili:267/0.3,
   Differential-Neuts:94.0 %, Band:4.0 %, Lymph:1.0 %, Mono:0.0 %, Eos:0.0
   %, D-dimer:751 ng/mL, Fibrinogen:542 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.7 g/dL, LDH:175 IU/L, Ca++:8.3 mg/dL, Mg++:2.6 mg/dL, PO4:3.4
   mg/dL
   63 year old woman with recurrent hypotension, hypothermia,
   hypoglycemia, without obvious source of infection, in guarded
   condition.
 SHOCK, SEPTIC: Initial Infectious workup remarkable for a positive UA
   and history of entero-uterine fistula. Chest x-ray unremarkable, no
   meningeal symptoms although mental status is altered. Other possible
   sources include Right BKA and left foot ulcers.
   -- Broad spectrum antibiotics; Vancomycin given multiple recent
   hospitalizations and Zosyn given concern for gram negatives, anaerobes
   and pseudomonas in this diabetic.
   -- IVF with CVP goal of 8
   -- Transfused two u pRBCs overnight
   -- F/U Blood, urine cultures
   -- [**Last Name (un) 1398**] stim test with appropriate rise in cortisol so adrenal
   insufficiency less likely
 HYPOTHERMIA: Ddx includes sepsis, hypotension, hypoglycemia and
   intracranial pathology.
   -- Intracranial pathology less likely as hypothermia resolved with
   rewarming
   -- Sepsis work up as above
 THROMBOCYTOPENIA, ACUTE, Anemia:  Unclear etiology from prior
   admissions, suspect bone marrow supression vs consumptive process.
   -- No recent heparin, no other drugs on board likely to cause new
   thrombocytopenia, no new drugs
   -- Heme onc consult re: anemia and thrombocytopenia
   -- Send folate, B12, iron studies in the setting of chronic
   malabsorption and e/o pernicious anemia on EGD
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): : Baseline
   Creatinine 1.1 to 1.3, now 1.9 (down from 2.3 on admission). Given
   hypotension, suspect this most likely represents pre-renal azotemia,
   however differential diagnosis includes post renal and intrinsic
   process
   -- Urine culture
   -- Urine lytes
   -- Empiric fluids
   -- Renal ultrasound
 ALTERED MENTAL STATUS (NOT DELIRIUM): Although baseline is very
   limited, per daughter patient less interactive than at baseline.
   Suspect this is likely to systemic process
 ACIDOSIS, METABOLIC: Very low bicarbonate on admission, lactate
   however was normal. No anion gap. Most likely this represents GI losses
   vs decreased bicarbonate production from acute renal function.
   -- Fluid resusitation
   -- Would use LR / D5
 NS with Bicarb as IV fluid
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS: Continue Keppra 500mg daily
   -- Ask neuro to commet on question of non-convulsive status
   # H/o pancreatitis: Continue pancreatic enzyme supplementation
   # CAD: Hold ASA currently in setting of acute thrombocytopenia
   -- ECHO to evaluate for severity of diastolic dysfunction
   # h/o CVA: Hold ASA as above
   ICU Care
   Nutrition: NPO for now in the setting of ? seizure activity and AMS
   Presep Catheter - [**2121-2-20**] 11:15 PM
   20 Gauge - [**2121-2-20**] 11:17 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP:  N/A
   Comments:
   Communication:  Call daughter [**Name (NI) 4760**]
   [**Name2 (NI) 129**] status: Full code thus far, discuss with daughter

2121-02-23 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   63 year old woman with recurrent hypotension, hypothermia,
   hypoglycemia, without obvious source of infection, in guarded
   condition.
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2121-2-22**] 06:59 PM
   MRI/NECK
   - Spoke to daughter - baseline mental status - says she has mild
   dementia, but converses well, good functional status; also adjusted SSI
   per daughter (3u w/ meals, 3u lantus, and easier sliding scale)
   - Heme rec checking for carcinoid - 24h urine 5-HIAA, and serum
   chromogranin A; if renal fxn improves to get CT torso to look for
   occult malignancy
   - MRI done, no read
   Allergies:
   Ranitidine
   Thrombocytopeni
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2121-2-23**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2121-2-22**] 08:03 AM
   Dextrose 50% - [**2121-2-22**] 07:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-23**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 80 (52 - 83) bpm
   BP: 161/72(93) {136/54(80) - 164/78(94)} mmHg
   RR: 12 (8 - 16) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 7 (3 - 11)mmHg
   Total In:
                                                                  1,465 mL
                                                                    721 mL
   PO:
   TF:
   IVF:
                                                                  1,440 mL
                                                                    721 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    580 mL
   Urine:
                                                                  1,700 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -235 mL
                                                                    141 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///19/
   Physical Examination
   General Appearance: Thin, Ill appearing,
   Eyes / Conjunctiva: No(t) PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: 1+, Right BKA well healed. Left foot
   with well demarcated ulcer, no drainage or purulence
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Cool
   Neurologic: opens eyes to voice, responds to simple commands, moves
   extremities on command
   GU: Stage II ulcer on left buttock.
   Labs / Radiology
   53 K/uL
   12.1 g/dL
   144
   2.0 mg/dL
   19 mEq/L
   4.1 mEq/L
   31 mg/dL
   119 mEq/L
   146 mEq/L
   36.9 %
   11.8 K/uL
        [image002.jpg]
                             [**2121-2-21**]  03:44 AM
                             [**2121-2-21**]  07:20 AM
                             [**2121-2-21**]  09:37 AM
                             [**2121-2-21**]  01:51 PM
                             [**2121-2-21**]  03:28 PM
                             [**2121-2-21**]  05:21 PM
                             [**2121-2-22**]  01:22 AM
                             [**2121-2-22**]  12:00 PM
                             [**2121-2-23**]  02:56 AM
                             [**2121-2-23**]  06:00 AM
   WBC
   15.9
   17.5
   17.4
   13.6
   11.8
   Hct
   28.7
   34
   30.9
   31.7
   34
   37
   37.3
   36.9
   Plt
   47
   44
   46
   55
   53
   Cr
   1.9
   1.9
   1.9
   2.0
   2.0
   TropT
   0.02
   Glucose
   123
   79
   158
   99
   131
   111
   144
   Other labs: PT / PTT / INR:12.3/37.0/1.0, CK / CKMB /
   Troponin-T:30/5/0.02, ALT / AST:50/40, Alk Phos / T Bili:267/0.3,
   Differential-Neuts:94.0 %, Band:4.0 %, Lymph:1.0 %, Mono:0.0 %, Eos:0.0
   %, D-dimer:751 ng/mL, Fibrinogen:542 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.7 g/dL, LDH:175 IU/L, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
   63 year old woman with recurrent hypotension, hypothermia,
   hypoglycemia, without obvious source of infection, in guarded
   condition.
 SHOCK, SEPTIC /
 HYPOTHERMIA:  Initial Infectious workup remarkable
   for a positive UA and history of entero-uterine fistula. Chest x-ray
   showed left lower lobe opacity concerning for pna. Other possible
   sources include Right BKA and left foot ulcers. Pt now no longer
   hypothermic/ hypoglycemic.  Intracranial pathology less likely as
   hypothermia resolved with rewarming. Pt
s mental status now improving
   - IVF prn hypotension, MAP > 60
   - pRBC if  Hct actively starts dropping
   - f/u cx
   - continue zosyn day#3
 THROMBOCYTOPENIA, ACUTE, Anemia:  Unclear etiology from prior
   admissions, suspect bone marrow supression vs consumptive process..
   Bactrim stopped already. No recent heparin, no other drugs on board
   likely to cause new thrombocytopenia, no new drugs.
   -- Hem/Onc recs include CT torso (will hold on currently given ARF),
   sending carcinoid labs (sent)
   -- Send folate, B12, iron studies in the setting of chronic
   malabsorption and e/o pernicious anemia on EGD
   -- stopped IV ppi (as may be contributing)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): : Baseline
   Creatinine 1.1 to 1.3, now 1.9 (down from 2.3 on admission). Given
   hypotension, suspect this most likely represents ATN. Renal US neg.
   - trend as most likely ATN following hypotension
 ALTERED MENTAL STATUS (NOT DELIRIUM): Although baseline is very
   limited, per daughter patient less interactive than at baseline.
   Suspect this is likely to systemic process. Improving.
   - f/u neuro recs
   - no need for LP currently
   - EEG today, f/u read
 ACIDOSIS, METABOLIC: Very low bicarbonate on admission, lactate
   however was normal. No anion gap. Most likely this represents GI losses
   vs decreased bicarbonate production from acute renal function. Used D5
   w/ 3amps bicarb overnight. Now resolved
   -- Fluid resuscitation w/ NS now
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS: Continue Keppra 500mg
   daily. non-convulsive status unlikely now that pt responsive
   -  EEG today
   # H/o pancreatitis: Continue pancreatic enzyme supplementation
   # CAD: Hold ASA currently as pt not tolerating POs
   -- ECHO to evaluate for severity of diastolic dysfunction
   # h/o CVA: Hold ASA as above
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2121-2-20**] 11:15 PM
   20 Gauge - [**2121-2-20**] 11:17 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:

2121-02-23 11:22:00 Physician Attending Progress Note
Chief Complaint: AMS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63 yo female with DM, CAD, hx CVA, PVD, hx enterovaginal fistula's
   3rd admission for hypothermia, bradycardia, AMS without clear etiology
   with w/u: [**Last Name (un) **] stim, TSH, Echo, Neuro consult
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2121-2-22**] 06:59 PM
   MRI/NECK
   *BG's dropped to 60's and SSI re-adjusted after discussing with
   daughter who advised pt had brittle DM
   *Heme consult
   History obtained from Medical records, ICU housestaff
   Patient unable to provide history: Encephalopathy
   Allergies:
   Ranitidine
   Thrombocytopeni
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2121-2-23**] 06:00 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2121-2-22**] 07:00 PM
   Other medications:
   viokase, Keppra, Insulin scheduled and SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-23**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.8
C (96.5
   HR: 63 (52 - 83) bpm
   BP: 162/73(96) {143/54(80) - 165/78(97)} mmHg
   RR: 14 (8 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
   CVP: 6 (3 - 11)mmHg
   Total In:
                                                                  1,487 mL
                                                                  1,073 mL
   PO:
   TF:
   IVF:
                                                                  1,462 mL
                                                                  1,073 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    730 mL
   Urine:
                                                                  1,700 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -213 mL
                                                                    343 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   General Appearance: No acute distress, frail female
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), CTA bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Intermittently opens eyes and tracks to command,
   Labs / Radiology
   12.1 g/dL
   53 K/uL
   144
   2.0 mg/dL
   19 mEq/L
   4.1 mEq/L
   31 mg/dL
   119 mEq/L
   146 mEq/L
   36.9 %
   11.8 K/uL
        [image002.jpg]
                             [**2121-2-21**]  03:44 AM
                             [**2121-2-21**]  07:20 AM
                             [**2121-2-21**]  09:37 AM
                             [**2121-2-21**]  01:51 PM
                             [**2121-2-21**]  03:28 PM
                             [**2121-2-21**]  05:21 PM
                             [**2121-2-22**]  01:22 AM
                             [**2121-2-22**]  12:00 PM
                             [**2121-2-23**]  02:56 AM
                             [**2121-2-23**]  06:00 AM
   WBC
   15.9
   17.5
   17.4
   13.6
   11.8
   Hct
   28.7
   34
   30.9
   31.7
   34
   37
   37.3
   36.9
   Plt
   47
   44
   46
   55
   53
   Cr
   1.9
   1.9
   1.9
   2.0
   2.0
   TropT
   0.02
   Glucose
   123
   79
   158
   99
   131
   111
   144
   Other labs: PT / PTT / INR:12.3/37.0/1.0, CK / CKMB /
   Troponin-T:30/5/0.02, ALT / AST:50/40, Alk Phos / T Bili:267/0.3,
   Differential-Neuts:94.0 %, Band:4.0 %, Lymph:1.0 %, Mono:0.0 %, Eos:0.0
   %, D-dimer:751 ng/mL, Fibrinogen:542 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.7 g/dL, LDH:175 IU/L, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:4.0
   mg/dL
   Imaging: MRI pending
   Assessment and Plan
 MALNUTRITION
 .H/O PANCREATITIS, CHRONIC
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, CHRONIC
 HYPOTHERMIA
 SHOCK, SEPTIC
 THROMBOCYTOPENIA, ACUTE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ACIDOSIS, METABOLIC
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS
   63 yo female admitted with recurrent MS changes, hypothermia,
   hypotension- some improvement with IVF and zosyn for ?LLL pneumonia.
   -Etiology of these recurrent episodes still not defined, some  concerns
   for infection with enterovaginal fistula
s but appears to be improving
   -f/u EEG and MRI report
   -F/u Neuro recs
   Thrombocytopenia: Heme consulted and recommended carcinoid labs,
   consideration of CT torso to eval for malignant process (not yet done)
   Renal insufficiency: Cr unchanged, appears from ATN, avoid nephrotoxins
   Hx seizure disorder; continue Keppra, f/u EEG
   Hx pancreatitis: viokase once appropriate to take po
    CAD: resume ASA when taking po
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines: IJ
   Presep Catheter - [**2121-2-20**] 11:15 PM
   20 Gauge - [**2121-2-20**] 11:17 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: